Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
uterine prolapse and stress incontinence 

 
Major Surgical or Invasive Procedure:
total vaginal hysterectomy, uterosacral vault suspension, 
anterior/posterior repair, mid uretheral sling

 
History of Present Illness:
___ yo Gravida 4  Para 4  who presents
today in the office for a consultation requested by Dr. ___.  Her
symptoms have been present for years but has become 
significantly
worse recently.  She describes that as soon as she stands her
vagina will prolapse.  It is especially bothersome with walking
as the friction causes her to bleed.  She has required visits to
___ in order to stop the bleeding.  Her treatment
has included: pessary, which she describes as ineffective and
inconvenient.
  
She reports urinary urgency and stress incontinence events. She
voids ___ times per day and up to 1 time per night. She denies
dysuria. She reports incomplete bladder emptying but with normal
uninterrupted flow. She denies any hematuria, UTI's, kidney
stones or pyelonephritis.
  
She denies constipation. She denies needing to splint to have
BM's. She denies fecal incontinence.  

She is not sexually active but does endorse vaginal dryness.

She is otherwise without any other significant complaints.

 
Past Medical History:
PMH: HTN, HLD, osteoporosis, GERD
PSH: C-section (___) 
NDKA
 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding; incision 
clean, dry, intact
Ext: no tenderness to palpation
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service after 
undergoing total vaginal hysterectomy, uterosacral vault 
suspension, anterior/posterior repair, mid uretheral slingPlease 
see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Morphine/Toradol. On 
post-operative day 0, she was noted to have an O2 sat of 89 on 
RA which improved to 94 while awake using IS. However, she was 
having intermittent desats and she was placed back on 2 L. She 
was successfully weaned off the following day. 

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 300 mL with 415 mL residual.
2. Instilled 300 mL, voided 250 mL with 644 mL residual.

Her Foley catheter was replaced and she was instructed in its 
care. Her diet was advanced without difficulty and she was 
transitioned to PO Tramadol/ibuprofen/acetaminophen. 

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with foley and prophylactic antibiotics and outpatient follow-up 
scheduled.
 
Medications on Admission:
 omeprazole 20 mg orally BID, atorvastatin 10 mg tablet 1 tab 
orally once a day, alendronate 70 mg tablet 1 tab orally once a 
week  amlodipine 2.5 mg tablet 1 tab orally once a day, calcium 
600+D 600 mg-400 intl units tablet 1 tab(s) orally 2
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000 mg per day 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Do not take if you are experiencing diarrhea.  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H 
Do not exceed 2400 mg per day. Take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
Take once a day until foley is removed.  
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
once a day Disp #*1 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
PACU ONLY
Do not drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Capsule Refills:*0 
6.  amLODIPine 2.5 mg PO DAILY  
7.  Atorvastatin 10 mg PO QPM  
8.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
10.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
11.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
12.  Omeprazole 20 mg PO BID  
13.  TraMADol 25 mg PO Q6H:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic uterine prolapse and stress incontinence 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___